US08067445B2
Step 1: [6-Methoxy-2′-(phenethylamino-methyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 5, using the following starting materials: (2′-formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester and 2-phenylethylamine.

reactant | (2′-formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C18H15F3O4
reactant | 2-phenylethylamine | C1(=CC=CC=C1)CCN | C8H11N
product | [6-Methoxy-2′-(phenethylamino-methyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCCC1=CC=CC=C1)=O | C26H26F3NO3
